US07482336B2
Step C: Methyl 8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]dec-7-ene-7-carboxylate
To a stirred solution of 7-(methoxycarbonyl)-8-{[(trifluoromethyl)sulfonyl]oxy}-4-oxa-1-oxoniaspiro[4.5]dec-7-ene (5.65 g, 16.0 mmol) dissolved in N,N-dimethylformamide (190 mL) were added aqueous sodium carbonate solution (2.0M, 20 mL, 39.0 mmol) and 2,4,5-trifluorophenylboronic acid (4.11 g, 23.4 mmol). The resulting mixture was degassed and treated with PdCl2(dppf) ([1,1′-bis(diphenylphosphino)-ferrocene] dichloropalladium(II), complex with dichloromethane (1:1), 1274 mg). The resulting mixture was stirred under a nitrogen atmosphere at room temperature overnight, filtered over Celite, diluted with ethyl acetate and washed with water. The organic phase was dried over anhydrous sodium sulfate, evaporated and the crude product was purified by chromatography on a Biotage® system (silica gel, ethyl acetate in hexanes gradient 30-50%) to yield the title compound.

reactant | 7-(methoxycarbonyl)-8-{[(trifluoromethyl)sulfonyl]oxy}-4-oxa-1-oxoniaspiro[4.5]dec-7-ene | 16.0 mmol, 5.65 g | COC(=O)C=1CC2(OCC[OH+]2)CCC1OS(=O)(=O)C(F)(F)F
reactant | sodium carbonate | 39.0 mmol, 2.0M, 20 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,4,5-trifluorophenylboronic acid | 23.4 mmol, 4.11 g | FC1=C(C=C(C(=C1)F)F)B(O)O | C6H4BF3O2
solvent | N,N-dimethylformamide | 190 mL | CN(C=O)C | C3H7NO
product | Methyl 8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]dec-7-ene-7-carboxylate | FC1=C(C=C(C(=C1)F)F)C1=C(CC2(OCCO2)CC1)C(=O)OC | C16H15F3O4
